US08222262B2
(4-Chloro-phenyl)-(2-indazol-2-yl-5-nitro-pyrimidin-4-yl)-amine (600 mg, 1.64 mmol) was dissolved in methanol (30 mL), palladium an carbon (10%, 150 mg) was added and the reaction mixture was stirred under a hydrogen atmosphere at room temperature over night. Filtration and evaporation gave the crude product which was purified by preparative HPLC to give N-(4-chloro-phenyl)-2-indazol-2-yl-pyrimidine-4,5-diamine (27 mg, 4.9%) as a brown solid. LC-ESI-HRMS of [M+H]+ shows 337.0955 Da. Calc. 337.096847 Da, dev. −4 ppm.

reactant | (4-Chloro-phenyl)-(2-indazol-2-yl-5-nitro-pyrimidin-4-yl)-amine | 1.64 mmol, 600 mg | ClC1=CC=C(C=C1)NC1=NC(=NC=C1[N+](=O)[O-])N1N=C2C=CC=CC2=C1 | C17H11ClN6O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | N-(4-chloro-phenyl)-2-indazol-2-yl-pyrimidine-4,5-diamine | 27 mg, 4.9% | ClC1=CC=C(C=C1)NC1=NC(=NC=C1N)N1N=C2C=CC=CC2=C1 | C17H13ClN6
